US20010014722A1
An autoclave, as equipped with a thermometer, a stirrer, and a nitrogen-introducing tube, was charged with 74 parts by weight of dipropylene glycol monomethyl ether and 1 part by weight of sodium hydroxide powder, and the internal air of the autoclave was displaced with nitrogen, and then the charged materials were heated to 130° C. Next, 426 parts by weight of ethylene oxide was introduced into the autoclave over a period of 3 hours, and then the resultant reaction mixture was aged at 130° C. for 2 hours and then cooled, thus obtaining a dipropylene glycol monomethyl ether-ethylene oxide adduct (number-average molecular weight=1,000, average molar number of addition= 1.94).

reactant | dipropylene glycol monomethyl ether | COC(C)COC(C)CO | C7H16O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylene oxide | C1CO1 | C2H4O
product | dipropylene glycol monomethyl ether ethylene oxide | COC(C)COC(C)CO.C1CO1 | InChI=1S/C7H16O3.C2H4O/c1-6(4-8)10-5-7(2)9-3;1-2-3-1/h6-8H,4-5H2,1-3H3;1-2H2
